US06747023B1
1-tert-Butoxycarbonyl-4-[(5-chloroindol-2-yl)sulfonyl]piperazine
To 1-tert-butoxycarbonyl-4-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]piperazine (4.84 g), a 0.5N methanol solution of sodium hydroxide (20 ml) was added, followed by stirring at room temperature for 1 hour. Under ice cooling, a saturated aqueous solution of ammonium chloride was added to the reaction mixture. Water and dichloromethane were then added to separate the organic layer. The organic layer was dried over anhydrous sodium sulfate. The residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (methanol:dichloromethane=1:20), whereby the title compound (3.33 g, 93%) was obtained as colorless powder.

reactant | 1-tert-butoxycarbonyl-4-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]piperazine | 4.84 g | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C=1N(C2=CC=C(C=C2C1)Cl)S(=O)(=O)C1=CC=CC=C1 | C23H26ClN3O6S2
reactant | methanol | 0.5N | CO | CH4O
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Water | O | H2O
product | 1-tert-Butoxycarbonyl-4-[(5-chloroindol-2-yl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C=1NC2=CC=C(C=C2C1)Cl | C17H22ClN3O4S
